US07666857B2
2-(3,4-Dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one (2.0 g, 4.29 mmole) was suspended in ethanol (17 ml) and water (1.85 ml). The brown slurry was treated with choline hydroxide (2.68 ml, 2.2 eq) (supplied as a 45% wt solution in methanol) at ambient temperature to form a deep purple solution which was stirred for 30 mins. The solution was filtered, and rinsed through with ethanol (4 ml). Triflouroacetic acid (0.36 ml, 1 eq) in water (1.85 ml) was added to the filtrate to form an orange-red slurry which was then heated to 78° C. (reflux) and stirred for 30 mins. The reaction was then cooled to 60° C. and treated with ethanol (25 ml, 12.5 vol) and stirred for a further 1 h at 60° C. The suspension was then cooled to ambient and stirred for 17 h. After filtration the cake was washed with ethanol (8 ml, 4 vol). The resulting solid was dried at 50° C. in vacuo to give 2-(3,4-dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one choline as an orange solid (2.02 g, 83%).

reactant | 2-(3,4-Dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one | 4.29 mmole, 2.0 g | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C1=NN=NN1)O)C | C25H22N8O2
reactant | choline hydroxide | 2.68 ml, 2.2 eq | [OH-].OCC[N+](C)(C)C
reactant | Triflouroacetic acid | 0.36 ml, 1 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 17 ml | C(C)O | C2H6O
solvent | water | 1.85 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 1.85 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(3,4-dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one choline | 2.02 g, 83% | OCC[N+](C)(C)C.CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C1=NN=NN1)O)C | InChI=1S/C25H22N8O2.C5H14NO/c1-14-10-11-19(12-15(14)2)33-25(35)22(16(3)30-33)27-26-21-9-5-8-20(23(21)34)17-6-4-7-18(13-17)24-28-31-32-29-24;1-6(2,3)4-5-7/h4-13,26,34H,1-3H3,(H,28,29,31,32);7H,4-5H2,1-3H3/q;+1
